US08865713B2
Step C: Preparation of 6-chloro-5-m-tolylsulfanyl-1H-benzoimidazole.
To a cooled (0° C.) solution of 4-chloro-5-m-tolylsulfanyl-benzene-1,2-diamine (2.07 g, 7.80 mmol) and trimethyl orthoformate (5.81 mL, 53.0 mmol) was added concentrated HCl (0.722 mL, 11.5 mmol). The reaction mixture was warmed to 23° C. over 16 h, then concentrated under reduced pressure. EtOAc (100 mL) was added to the crude product and the organic layer was washed with saturated aqueous NaHCO3 (2×75 mL). The aqueous layer was extracted with EtOAc (2×50 mL). The organic layers were combined, dried, filtered, and concentrated under reduced pressure. The crude material was used in the next step without further purification. MS (ESI/CI): mass calcd. for C14H11ClN2S, 274.0; m/z found, 275.1 [M+H]+.

reactant | 4-chloro-5-m-tolylsulfanyl-benzene-1,2-diamine | 7.80 mmol, 2.07 g | ClC=1C=C(C(=CC1SC=1C=C(C=CC1)C)N)N | C13H13ClN2S
reactant | trimethyl orthoformate | 53.0 mmol, 5.81 mL | C(OC)(OC)OC | C4H10O3
reactant | HCl | 11.5 mmol, 0.722 mL | Cl | ClH
product | 6-chloro-5-m-tolylsulfanyl-1H-benzoimidazole | ClC=1C(=CC2=C(NC=N2)C1)SC=1C=C(C=CC1)C | C14H11ClN2S
